2145-10-04 11:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   A- Line Placed
   Sedation increased. Paralytics given.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 250 mcg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2145-10-4**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.5
C (94.1
   Tcurrent: 34.5
C (94.1
   HR: 84 (79 - 111) bpm
   BP: 175/106(135) {162/98(121) - 181/118(140)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     33 mL
                                                                  1,761 mL
   PO:
             TF:
   IVF:
                                                                     33 mL
                                                                  1,761 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    695 mL
   Urine:
                                                                    180 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -147 mL
                                                                  1,066 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 583 (583 - 583) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/45/174/22/-3
   Ve: 8.3 L/min
   PaO2 / FiO2: 435
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) Pupils dilated, L pupil dilated, R
   constricted. Both fixed. No corneal reflexes. + Dolls.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Increased
   Labs / Radiology
   155 K/uL
   13.4 g/dL
   139 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.4 mEq/L
   10 mg/dL
   114 mEq/L
   145 mEq/L
   39.2 %
   6.1 K/uL
        [image002.jpg]
                            [**2145-10-3**]  07:50 PM
                            [**2145-10-3**]  10:06 PM
                            [**2145-10-4**]  12:59 AM
                            [**2145-10-4**]  05:41 AM
                            [**2145-10-4**]  06:01 AM
                            [**2145-10-4**]  10:07 AM
   WBC
   8.1
   6.1
   Hct
   41.0
   39.2
   Plt
   195
   155
   Cr
   1.1
   0.7
   TropT
   <0.01
   TCO2
   18
   19
   23
   23
   Glucose
   194
   103
   139
   Other labs: PT / PTT / INR:13.0/25.8/1.1, CK / CKMB /
   Troponin-T:2060/7/<0.01, ALT / AST:151/192, Alk Phos / T Bili:114/0.2,
   Amylase / Lipase:55/39, Lactic Acid:1.6 mmol/L, Albumin:4.5 g/dL,
   LDH:341 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M with heroin abuse admitted s/p cardiac arrest
   .
   # Cardiac Arrest - Contining with Arctic Sun Protocol with goal 32
C to
   34
C for 24 hour. This should complete approx 10pm tonight. Minimal
   neurologic response prior to cooling. Arrest was most likely caused by
   respiratory failure related to heroin and EtOH rather than primary
   cardiac cause.
   - Continue Arctic Sun Protocol  through 10pm.
   - Continue invasive ventilation with AC support and will wean based on
   neurologic improvement
   - Obtain TTE following Artic Sun Removal
   - Will assess neuro exam post cooling and wean of sedation, and get
   neurology consult for prognosis of anoxic brain injury.
   .
   # Heroin Abuse - will need to monitor for neurologic recovery, if
   improvement pt will require SW consult and addition consult
   - Dosing sedation medications with addiction history in mind
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psosriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, receiving banana bag. Will start MVI,
   Folate, Thiamine.
   .
   # Access - PIVX2
   .
   # Code - Full
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) 2207**]
s note above and
   agree with the findings and plan of care.
   The patient remains deeply comatose, but at this time also deeply
   sedated and paralyzed on the Arctic Sun hypothermia protocol.  Other
   than triggering the ventilator, brain stem reflexes appear to be
   absent.  The cause for the cardiac arrest is not entirely clear, as tox
   screen was neg for narcotics. However, by report he had been using
   alcohol and heroin.  The 40 min CPR and post resuscitation neuron
   status does not bode well, and the family is being prepared emotionally
   for this.
   By most other accounts
 labs, vent settings, urine output,
   hemodynamics, etc.
 he is very stable, as we await neurological
   recovery.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   45 min spent in the care of this critically ill patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2145-10-4**] 15:08 ------

2145-10-05 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HTN: SBP in 180-->160
s with labetalol gtt; stopped gtt with
   initiation of propofol gtt
   -Began rewarming from Arctic sun cold vest starting at 10pm; pt began
   to shiver/have rigors
given fentanyl, versed, currently on propofol
   gtt, Meperidine 25mg IV x1. Pt continued to have rigors with fever to
   103.3 despite sedation and then placed back on cisatrcuronium gtt.
   -Social Work: consulted, f/u recs.
   -Neuro: consulted for am eval post-Arctic Sun vest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-10-5**] 05:00 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Propofol - 15 mcg/Kg/min
   Cisatracurium - 0.1 mg/Kg/hour
   Other ICU medications:
   Meperidine (Demerol) - [**2145-10-5**] 01:50 AM
   Cisatracurium - [**2145-10-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-5**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39
C (102.2
   HR: 113 (69 - 114) bpm
   BP: 154/88(110) {116/68(82) - 182/112(139)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,588 mL
                                                                    543 mL
   PO:
             TF:
   IVF:
                                                                  3,588 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    675 mL
   Urine:
                                                                  1,390 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,198 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 583 (583 - 583) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/38/168/23/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) Pupils dilated, L pupil dilated, R
   constricted. Both fixed. No corneal reflexes. + Dolls.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Increased
   Labs / Radiology
   162 K/uL
   12.4 g/dL
   148 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   11 mg/dL
   115 mEq/L
   144 mEq/L
   37.2 %
   7.0 K/uL
        [image002.jpg]
                            [**2145-10-3**]  10:06 PM
                            [**2145-10-4**]  12:59 AM
                            [**2145-10-4**]  05:41 AM
                            [**2145-10-4**]  06:01 AM
                            [**2145-10-4**]  10:07 AM
                            [**2145-10-4**]  12:22 PM
                            [**2145-10-4**]  06:32 PM
                            [**2145-10-4**]  06:45 PM
                            [**2145-10-4**]  11:55 PM
                            [**2145-10-5**]  04:57 AM
   WBC
   8.1
   6.1
   7.2
   6.8
   7.0
   Hct
   41.0
   39.2
   40.6
   38.8
   37.2
   Plt
   195
   155
   146
   136
   162
   Cr
   1.1
   0.7
   0.7
   0.5
   TropT
   <0.01
   TCO2
   19
   23
   23
   23
   24
   Glucose
   194
   103
   139
   125
   148
   Other labs: PT / PTT / INR:12.6/30.9/1.1, CK / CKMB /
   Troponin-T:2060/7/<0.01, ALT / AST:151/192, Alk Phos / T Bili:114/0.2,
   Amylase / Lipase:55/39, Lactic Acid:1.6 mmol/L, Albumin:4.5 g/dL,
   LDH:341 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest with an ETOH level and a h/o
   IVDU including heroine.
   .
   #Neurologic Status
   - Arctic Sun Protocol complete, minimal neurologic response prior to
   cooling.
   - Will assess neuro exam as pt is weaned off paralytics and sedation
   - Due to pt
s propensity to rigor and become febrile, monitor
   temperature closely for concern for malignant hyperthermia.
   - Obtain neurology consult for prognosis of anoxic brain injury once pt
   is able to be weaned off paralytics/sedatives.
   - Consider rpt imaging of head 3-4 days after cardiac arrest, in order
   to evaluate the presence and extent of anoxic brain injury.
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic improvement.
   - Follow up TTE read obtained post Arctic Sun protocol.
   - Order EEG
   # Febrility:
   - No identified sources of infection
 stop the Vancomycin.
   - Obtain surveillance blood cultures, and follow up urine cultures.
   # Heroin Abuse - will need to monitor for neurologic recovery, if
   improvement pt will require SW consult and addition consult
   - Dosing sedation medications with addiction history in mind, with
   potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psosriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, receiving banana bag. Will start MVI,
   Folate, Thiamine.
   .
   # Access:  P-IVs X 4
   .
   # Code - Full
   .
   # Dispo - ICU

2145-10-05 09:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Completed therapeutic hypothermia.  Developed shivering upon rewarming,
   now controlled with reinstitution of paralytic [**Doctor Last Name **].
   24 Hour Events:
 FEVER - 103.3
C - [**2145-10-5**] 04:00 AM
   Episode of rigors vs. seizures this AM during rounds after D/c
   paralytics.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-10-5**] 05:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Cisatracurium - 0.1 mg/Kg/hour
   Other ICU medications:
   Meperidine (Demerol) - [**2145-10-5**] 01:50 AM
   Cisatracurium - [**2145-10-5**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-5**] 06:18 AM
   Famotidine (Pepcid) - [**2145-10-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   Paralytics
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-10-5**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 36.8
C (98.2
   HR: 93 (69 - 114) bpm
   BP: 123/70(87) {116/68(82) - 182/112(139)} mmHg
   RR: 14 (13 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,590 mL
                                                                    795 mL
   PO:
             TF:
   IVF:
                                                                  3,590 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                  1,045 mL
   Urine:
                                                                  1,390 mL
                                                                  1,015 mL
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,200 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 583 (583 - 583) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/38/168/25/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube, Left surgical pupil
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   162 K/uL
   124 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   14 mg/dL
   110 mEq/L
   143 mEq/L
   37.2 %
   7.0 K/uL
        [image002.jpg]
                            [**2145-10-3**]  10:06 PM
                            [**2145-10-4**]  12:59 AM
                            [**2145-10-4**]  05:41 AM
                            [**2145-10-4**]  06:01 AM
                            [**2145-10-4**]  10:07 AM
                            [**2145-10-4**]  12:22 PM
                            [**2145-10-4**]  06:32 PM
                            [**2145-10-4**]  06:45 PM
                            [**2145-10-4**]  11:55 PM
                            [**2145-10-5**]  04:57 AM
   WBC
   8.1
   6.1
   7.2
   6.8
   7.0
   Hct
   41.0
   39.2
   40.6
   38.8
   37.2
   Plt
   195
   155
   146
   136
   162
   Cr
   1.1
   0.7
   0.7
   0.5
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   23
   23
   24
   Glucose
   194
   103
   139
   125
   148
   124
   Other labs: PT / PTT / INR:12.6/30.9/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:116/118, Alk Phos / T Bili:96/0.2,
   Amylase / Lipase:55/39, Lactic Acid:1.6 mmol/L, Albumin:4.5 g/dL,
   LDH:296 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   s/p cardiac arrest in field, heroin overdose.
   s/p CARDIAC ARREST -- resusitated.  s/p therapeutic hypothermia -->
   completed.
   NEUROLOGICAL STATUS -- need to formally assess off medications and
   paralytics.  Neuological consultation.
   FLUIDS -- euvolemic.  Monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT -- initiate TF.
   h/o POLYSUBSTANCE ABUSE -- only EtOH identified by tox screen.  Monitor
   for withdrawal.
   RIGORS -- attributed to rewarming.  Need to consider underlying
   infection (new fever).  Check blood, urine, sputum cultures.
   FEVERS -- new.  Possible related to neurological process, complication
   of aspiration or iv drug use.  Consider MNS (although no meds to
   implicate syndrome).  Evalutation in progress.  Check cardiac echo.
   Currently on Vanco for possible sepsis of skin source.
   TREMORS vs. SEIZURES
 need to better define.  Recommend continuous EEG
   monitoring now to assess for non-convulsive status epilepticus (masked
   by paralytics).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:   Discussed with family members (including
   mother, father, sister) during family meeting (total time 40 minutes).
   Updated medical condition, progress and answered all questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 85 minutes
   Patient is critically ill

2145-10-06 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-10-5**] 08:35 AM: Normal global and
   biventricular systoic function with EF >75%.
   Urine tox pos for opiates and benzos.
   Loaded with Dilantin and Keppra. Dilantin level [**10-11**] so continued on
   100 IV q8.
 Continuous EEG overnight. Had focal seizures C3-P3-F3 leads per neuro
   prior to Keppra load. Re-evaluated after Keppra when pt having
   twitching, clonic motions RLE, occasionally alternating between R and
   L. Neuro evaluated overnight, reported that motions were myoclonus, not
   seizures, so wouldn't treat. No evidence of sz on EEG.
   Per neuro would have low threshold to CT if evidence Cushings triad or
   blown right pupil, but would need to remove all EEG leads
 FEVER - 102.0
F - [**2145-10-5**] 05:00 PM
   Hypertensive SBP 160s, fever curve trended down, tachycardic
   100s-110s.
   Approx. [**2-23**] am, dysynchronous with vent, sedation increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-10-5**] 05:00 AM
   Infusions:
   Fentanyl - 120 mcg/hour
   Midazolam (Versed) - 16 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-10-5**] 08:00 AM
   Ranitidine (Prophylaxis) - [**2145-10-5**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2145-10-5**] 09:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-6**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.3
C (101
   HR: 107 (92 - 114) bpm
   BP: 158/83(105) {112/54(71) - 168/99(113)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  1,873 mL
                                                                    293 mL
   PO:
             TF:
   IVF:
                                                                  1,793 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  1,662 mL
                                                                    435 mL
   Urine:
                                                                  1,632 mL
                                                                    435 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    211 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.39/48/75/28/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) Pupils dilated, L pupil dilated, R
   constricted. Both fixed. No corneal reflexes. + Dolls.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Increased
   Labs / Radiology
   129 K/uL
   12.4 g/dL
   114 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   34.8 %
   7.1 K/uL
        [image002.jpg]
                            [**2145-10-4**]  06:01 AM
                            [**2145-10-4**]  10:07 AM
                            [**2145-10-4**]  12:22 PM
                            [**2145-10-4**]  06:32 PM
                            [**2145-10-4**]  06:45 PM
                            [**2145-10-4**]  11:55 PM
                            [**2145-10-5**]  04:57 AM
                            [**2145-10-6**]  03:35 AM
                            [**2145-10-6**]  03:41 AM
                            [**2145-10-6**]  04:58 AM
   WBC
   7.2
   6.8
   7.0
   7.1
   Hct
   40.6
   38.8
   37.2
   34.8
   Plt
   146
   136
   162
   129
   Cr
   0.7
   0.5
   0.9
   0.7
   TropT
   <0.01
   TCO2
   23
   23
   23
   24
   30
   30
   Glucose
   125
   148
   124
   114
   Other labs: PT / PTT / INR:12.8/31.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:82/99, Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:55/39, Lactic Acid:1.6 mmol/L, Albumin:4.5 g/dL,
   LDH:296 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest with an ETOH level and a h/o
   IVDU including heroine.
   .
   #Neurologic Status
   - Arctic Sun Protocol complete, minimal neurologic response prior to
   cooling.
   - Will assess neuro exam as pt is weaned off paralytics and sedation
   - Due to pt
s propensity to rigor and become febrile, monitor
   temperature closely for concern for malignant hyperthermia.
   - Obtain neurology consult for prognosis of anoxic brain injury once pt
   is able to be weaned off paralytics/sedatives.
   - Consider rpt imaging of head 3-4 days after cardiac arrest, in order
   to evaluate the presence and extent of anoxic brain injury.
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic improvement.
   - Follow up TTE read obtained post Arctic Sun protocol.
   - Order EEG
   # Febrility:
   - No identified sources of infection
 stop the Vancomycin.
   - Obtain surveillance blood cultures, and follow up urine cultures.
   # Heroin Abuse - will need to monitor for neurologic recovery, if
   improvement pt will require SW consult and addition consult
   - Dosing sedation medications with addiction history in mind, with
   potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psosriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, receiving banana bag. Will start MVI,
   Folate, Thiamine.
   .
   # Access:  P-IVs X 4
   .
   # Code - Full
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-10-06 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Seizures controlled overnight, received Dilantin, added Cepra, continue
   iv Versed.
   Episodic right foot twitching, interpreted as myoclonus by Neurology.
   Remains intubated mechanically ventilated.
 TRANSTHORACIC ECHO - At [**2145-10-5**] 08:35 AM
 EEG - At [**2145-10-5**] 12:40 PM
 FEVER - 102.0
F - [**2145-10-5**] 05:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-10-5**] 05:00 AM
   Infusions:
   Fentanyl - 120 mcg/hour
   Midazolam (Versed) - 16 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2145-10-5**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2145-10-6**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-6**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.4
C (101.1
   HR: 107 (95 - 114) bpm
   BP: 158/76(101) {112/54(71) - 168/88(113)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  1,873 mL
                                                                    410 mL
   PO:
             TF:
   IVF:
                                                                  1,793 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  1,662 mL
                                                                    505 mL
   Urine:
                                                                  1,632 mL
                                                                    505 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    211 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.39/48/75/28/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Surgical left pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, diffuse psoriasis
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   12.4 g/dL
   129 K/uL
   114 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   34.8 %
   7.1 K/uL
        [image002.jpg]
                            [**2145-10-4**]  06:01 AM
                            [**2145-10-4**]  10:07 AM
                            [**2145-10-4**]  12:22 PM
                            [**2145-10-4**]  06:32 PM
                            [**2145-10-4**]  06:45 PM
                            [**2145-10-4**]  11:55 PM
                            [**2145-10-5**]  04:57 AM
                            [**2145-10-6**]  03:35 AM
                            [**2145-10-6**]  03:41 AM
                            [**2145-10-6**]  04:58 AM
   WBC
   7.2
   6.8
   7.0
   7.1
   Hct
   40.6
   38.8
   37.2
   34.8
   Plt
   146
   136
   162
   129
   Cr
   0.7
   0.5
   0.9
   0.7
   TropT
   <0.01
   TCO2
   23
   23
   23
   24
   30
   30
   Glucose
   125
   148
   124
   114
   Other labs: PT / PTT / INR:12.8/31.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:82/99, Alk Phos / T Bili:83/0.4,
   Amylase / Lipase:55/39, Lactic Acid:1.6 mmol/L, Albumin:4.5 g/dL,
   LDH:296 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Coma
   RESPIRATORY FAILURE -- s/p cardiopulmonary arrest.  Radiographic
   evidence for LLL infiltrate.  Continue mechanical ventilation. Monitor
   for VAP/aspiration pneumonia.
   COMA -- likely attributed to anoxic brain injury.  Also receiving
   sedation.  Neurology following.  Will need repeat imaging in next 24-48
   hours.  Reduce sedation as tolerated.
   SEIZURES -- status epilepticus., now improved control.  Residual right
   toe/foot focal seizure.  Plan to optimize anticonvulsants.  Continue
   EEG monitoring.  Neurology to f/u
 epilepsy service.
   NUTRITIONAL SUPPORT
   FLUIDS
 euvolemic.  Monitor I/O.
   RENAL FUNCTION
 preserved.  Monitor UO, BUN creatinine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments: Updated medical condition during family meeting.
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 55 minutes

2145-10-07 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events: (Through 8am)
   Started on Levo/Flagyl
   Loaded and placed on Levetiracetam (Keppra)
   Briefly hypertensive to SBPs 190
s overnight, Labetolol 10mgIV written
   for, but BP resolved, and dose not given.
 MAGNETIC RESONANCE IMAGING - At [**2145-10-7**] 12:00 AM
   MRI from 21:30 tp 23:00
 FEVER - 102.2
F - [**2145-10-7**] 03:00 AM, Cooling blanket placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-10-5**] 05:00 AM
   Levofloxacin - [**2145-10-6**] 08:30 PM
   Metronidazole - [**2145-10-7**] 12:30 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2145-10-6**] 11:06 PM
   Ranitidine (Prophylaxis) - [**2145-10-7**] 12:45 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-7**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-7**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.6
C (101.5
   HR: 110 (99 - 113) bpm
   BP: 144/80(101) {137/69(93) - 185/95(123)} mmHg
   RR: 14 (0 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  1,327 mL
                                                                    174 mL
   PO:
             TF:
   IVF:
                                                                  1,297 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,481 mL
                                                                    375 mL
   Urine:
                                                                  1,481 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -154 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.38/51/106/30/3
   Ve: 10.1 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Intubated, sedated, young man in bed with cooling
   blanket
   Eyes / Conjunctiva:L surgical pupil dilated, R more dilated than prior,
   4-5mm. Both fixed. No corneal reflexes.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c/e
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   Right foot rhythmically tapping, L intermittently tapping.
   Labs / Radiology
   127 K/uL
   11.8 g/dL
   120 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   103 mEq/L
   139 mEq/L
   33.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2145-10-4**]  12:22 PM
                            [**2145-10-4**]  06:32 PM
                            [**2145-10-4**]  06:45 PM
                            [**2145-10-4**]  11:55 PM
                            [**2145-10-5**]  04:57 AM
                            [**2145-10-6**]  03:35 AM
                            [**2145-10-6**]  03:41 AM
                            [**2145-10-6**]  04:58 AM
                            [**2145-10-7**]  03:15 AM
                            [**2145-10-7**]  03:35 AM
   WBC
   7.2
   6.8
   7.0
   7.1
   8.8
   Hct
   40.6
   38.8
   37.2
   34.8
   33.8
   Plt
   146
   136
   162
   129
   127
   Cr
   0.7
   0.5
   0.9
   0.7
   0.7
   TropT
   <0.01
   TCO2
   23
   24
   30
   30
   31
   Glucose
   125
   148
   124
   114
   120
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Micro: Bl cx [**10-5**] x 4, [**10-7**] NGTD
   Urine cx NG
   Sputum cx GNR
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest in setting of possible
   overdose.
   .
   # Neurologic status/assessment: Will need to assess pt
s neurological
   status as he is no\w approx. 72 hours out from arrest to determine
   prognosis. Per neuro, no cold caloric response, no doll
s eyes although
   later had some UE reflexes and withdrawal to pain this am.  Dilated
   pupil on am exam concerning for herniation although prelim head CT only
   c/w edema. Neurosurg consulted and bolt was placed for intracranial
   monitoring.
   - Arctic Sun Protocol completed, minimal neurologic response prior and
   after cooling.
   - Since pt had minimally reactive, more dilated (although not blown)
   pupil on exam this am, he had stat Head CT to assess for herniation
   which was not seen as of prelim read. He did, however, have edema with
   loss [**Doctor Last Name **]-white matter differentiation
   - F/U final read MRI with diffusion waited images, in order to evaluate
   the presence and extent of anoxic brain injury.
   - Due to pt
s propensity to rigor and become febrile, monitor closely
   and apply cooling blanket to prevent malignant hyperthermia.
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures. Will call neurosurg if ICP>30
   - Continue hyperventilation with goal CO2 28-30 and mannitol
   Seizures: Neurology opinions different regarding whether eprsitent
   footr movement re[resent seizures. Will follow up EEG report
   -          Continue Keppra and Dilantin (following Dilantin levels).
   Dilantin level therapeutic
   -          -Increase Keppra dosing since pt still having rhythmic foot
   movement, ? seizure
   -          Versed not weaned per neuro recs
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - Follow up EEG report.
   - VAP bundle
   # Fever: Likley central vs. from infection. Has new LLL PNA and GNR in
   sputum
   - Ceftriaxone and Flagyl for PNA ? aspiration
   - F/u cultures and sensitivities.
   # Heroin Abuse - will need to monitor for neurologic recovery, if
   improvement pt will require SW consult and addition consult
   - Dosing sedation medications with addiction history in mind, with
   potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psosriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, receiving banana bag. Will start MVI,
   Folate, Thiamine. Following Na, serum osm q4 hours, dosing mannitol
   accordingly
   .
   # Access:  P-IVs X 4
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code - Full
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis, goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-10-07 09:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2145-10-7**] 12:00 AM
   MRI from 21:30 tp 23:00
 FEVER - 102.2
F - [**2145-10-7**] 03:00 AM
   Remains intubated, mechanically ventillated.
   Neuro exam this AM revealed right pupil to be larger, fixed (change
   from prior exam).  STAT Head CT scan revealed marked diffuse cerebral
   edema (effacement of sulci & ventricles), loss of grey-white matter
   discrimination.
   Continues to exhibit rhythmic movements of right foot.
   Remains on cooling blanket for persistent fevers.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-10-5**] 05:00 AM
   Levofloxacin - [**2145-10-6**] 08:30 PM
   Metronidazole - [**2145-10-7**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-10-6**] 11:06 PM
   Ranitidine (Prophylaxis) - [**2145-10-7**] 12:45 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-10-7**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.7
C (101.6
   HR: 113 (99 - 113) bpm
   BP: 143/82(103) {137/69(93) - 185/95(123)} mmHg
   RR: 17 (0 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  1,327 mL
                                                                    229 mL
   PO:
             TF:
   IVF:
                                                                  1,297 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  1,481 mL
                                                                    495 mL
   Urine:
                                                                  1,481 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -154 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 95%
   ABG: 7.49/39/76.[**Numeric Identifier 126**]/30/5
   Ve: 15.2 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Surgical left pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Flaccid
   tone.  Only movement is
   Labs / Radiology
   11.8 g/dL
   127 K/uL
   120 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   103 mEq/L
   139 mEq/L
   33.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2145-10-4**]  06:32 PM
                            [**2145-10-4**]  06:45 PM
                            [**2145-10-4**]  11:55 PM
                            [**2145-10-5**]  04:57 AM
                            [**2145-10-6**]  03:35 AM
                            [**2145-10-6**]  03:41 AM
                            [**2145-10-6**]  04:58 AM
                            [**2145-10-7**]  03:15 AM
                            [**2145-10-7**]  03:35 AM
                            [**2145-10-7**]  08:32 AM
   WBC
   6.8
   7.0
   7.1
   8.8
   Hct
   38.8
   37.2
   34.8
   33.8
   Plt
   136
   162
   129
   127
   Cr
   0.5
   0.9
   0.7
   0.7
   TropT
   <0.01
   TCO2
   23
   24
   30
   30
   31
   31
   Glucose
   148
   124
   114
   120
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:1.0 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   s/p respiratory arrest
   RESPIRATORY FAILURE
 persistent.  Intubated for airway protection.
   Now with evidence for new progressive LLL pneumonia.  Continue
   mechanical ventilation.  Hyperventilation to pCO2 <25.  Continue
   antibiotics.
   COMA
 evidence for global ischemia, and increased brain edema
 ICP
   bolt for monitoring, mannitol, hyperventilation.  Poor prognosis for
   meaningful recovery.  Neurosurgery and Neurology to F/U.
   SEIZURES
 much improved control, but occasional breakthrough seizure
   involving right foot.  Continue Dilatntin
 extra bolus and increase
   standing dose, monitor level.  Continue cepra.  Hope to taper versed.
   s/p ARREST
 received CPR and therapeutic hypothermia.  Likely anoxic
   brain injury.
   RENAL FUNCTION
 Preserved.  Monitor UO, BUN, creatinine.
   FLUIDS
 euvolemic.  Monitor I/O.  Maintain balance.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:   Medical condition and progress updated with
   famlly during family meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum:  [**2145-10-7**]
   Extensive discussion with family members (including father and
   mother).  Updated medical Condition.  Answered all questions.  Reviewed
   clinical information to date, including clinical diagnosis of diffuse
   cerebral damage (based on Neurological exam and supported by brain MRI
   and CT scans), consistent with ischemic brain injury.  Currently poor
   prognosis for meaningful recovery.  Will continue to monitor at current
   level of care.  Will need to readdress if evidence for brain death
   evident.  In the event of cardiac arrest or cardiac dysrhythmia, will
   not proceed with resuscitation (i.e. no CPR, defibrillation or
   cardioversion).
   All in agreement with plans as outlined.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2145-10-7**] 04:55 PM ------

2145-10-08 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ICP CATHETER - START [**2145-10-8**] 12:00 AM
   placed [**2145-10-7**]
 FEVER - 102.3
F - [**2145-10-7**] 05:00 PM
   - Bolt placed 11:00 AM; placed by neurosurgery in R. side skull
   - Read on MRI - prelim = global infarction.
   - DNR/DNI
   - Increased Keppra to 2000mg
   - Mannitol and repleted lytes PRN: held midnight dose because ICP was
   8, but then required two one time doses of 12.5 to maintain ICPs under
   threshold.  Repleting electrolytes as needed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-10-6**] 08:30 PM
   Ceftriaxone - [**2145-10-7**] 01:00 PM
   Metronidazole - [**2145-10-8**] 12:26 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2145-10-7**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-8**] 12:00 AM
   Midazolam (Versed) - [**2145-10-8**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-8**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.2
C (99
   HR: 102 (91 - 113) bpm
   BP: 164/94(118) {133/71(93) - 168/96(119)} mmHg
   RR: 37 (14 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    ICP: 19 (13 - 25) mmHg
   Total In:
                                                                  2,288 mL
                                                                    865 mL
   PO:
   TF:
   IVF:
                                                                  2,108 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    770 mL
   Urine:
                                                                  2,255 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     33 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.57/26/77.[**Numeric Identifier 143**]/24/2
   Ve: 14.7 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Intubated, sedated, young man in bed with cooling
   blanket
   Eyes / Conjunctiva:L surgical pupil dilated, R more dilated than prior,
   4-5mm. Both fixed. No corneal reflexes.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c/e
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   Right foot rhythmically tapping, L intermittently tapping.
   Labs / Radiology
   146 K/uL
   10.5 g/dL
   88 mg/dL
   0.7 mg/dL
   24 mEq/L
   2.8 mEq/L
   11 mg/dL
   111 mEq/L
   143 mEq/L
   30.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2145-10-7**]  10:28 AM
                            [**2145-10-7**]  12:11 PM
                            [**2145-10-7**]  12:35 PM
                            [**2145-10-7**]  02:52 PM
                            [**2145-10-7**]  04:23 PM
                            [**2145-10-7**]  06:45 PM
                            [**2145-10-7**]  10:00 PM
                            [**2145-10-7**]  10:07 PM
                            [**2145-10-8**]  02:58 AM
                            [**2145-10-8**]  03:08 AM
   WBC
   8.3
   Hct
   30.6
   Plt
   146
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   28
   27
   26
   25
   26
   25
   Glucose
   98
   114
   102
   88
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest in setting of possible
   overdose.
   .
   # Neurologic status/assessment: Will need to assess pt
s neurological
   status as he is no\w approx. 72 hours out from arrest to determine
   prognosis. Per neuro, no cold caloric response, no doll
s eyes although
   later had some UE reflexes and withdrawal to pain this am.  Dilated
   pupil on am exam concerning for herniation although prelim head CT only
   c/w edema. Neurosurg consulted and bolt was placed for intracranial
   monitoring.
   - Arctic Sun Protocol completed, minimal neurologic response prior and
   after cooling.
   - Head CT does note loss of [**Doctor Last Name **]-white matter differentiation
   - F/u final read MRI with diffusion waited images, in order to evaluate
   the presence and extent of anoxic brain injury.
   - Due to pt
s propensity to rigor and become febrile, monitor closely
   and apply cooling blanket to prevent malignant hyperthermia, and treat
   with round the clock APAP.
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures. Will call neurosurg if ICP>30
   - Continue hyperventilation with goal CO2 28-30 and mannitol
   Seizures: Neurology opinions different regarding whether persistent
   foot movements represent seizures. Will follow up EEG report
   - Continue Keppra and Dilantin (following Dilantin levels). Dilantin
   level therapeutic
   - Increase Keppra dosing since pt still having rhythmic foot movement,
   ? seizure
   -
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - Follow up EEG report.
   - VAP bundle
   # Fever: Likley central vs. from infection. Has new LLL PNA and GNR in
   sputum, speciated to Klebsiella sensitive to ceftriaxone.
   - Ceftriaxone only for treatment of Klebsiella PNA, D/C Flagyl.
   - F/u cultures and sensitivities.
   # Heroin Abuse - will need to monitor for neurologic recovery, if
   improvement pt will require SW consult and addition consult
   - Dosing sedation medications with addiction history in mind, with
   potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psosriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, receiving banana bag. Will start MVI,
   Folate, Thiamine. Following Na, serum osm q4 hours, dosing mannitol
   accordingly
   .
   # Access:  P-IVs X 4
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code
 DNR/DNI
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis, goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:

2145-10-08 10:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ICP BOLT INSERTED - At [**2145-10-7**] 11:00 AM
   placed by neurosurgery in R. side skull
 ICP CATHETER - START [**2145-10-8**] 12:00 AM
   placed [**2145-10-7**]
 FEVER - 102.3
F - [**2145-10-7**] 05:00 PM
   Remains intubated, mechanically ventilated.
   Remains in Coma.
   Continues to exhibit rhythmic movements of right foot. Occasionally
   exhibits left foot movemetns.  Occasionally tremors of head and upper
   torso.  Anticonvulsants adjusted, remains on Versed infusion.
   ICP remains 13-25 cmH2O, receiving mannitol q6h.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-10-6**] 08:30 PM
   Ceftriaxone - [**2145-10-7**] 01:00 PM
   Metronidazole - [**2145-10-8**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2145-10-7**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-8**] 06:00 AM
   Midazolam (Versed) - [**2145-10-8**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-10-8**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.4
C (99.3
   HR: 99 (91 - 113) bpm
   BP: 147/89(109) {133/71(93) - 168/96(119)} mmHg
   RR: 25 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   ICP: 11 (10 - 25) mmHg
   Total In:
                                                                  2,288 mL
                                                                  1,474 mL
   PO:
   TF:
   IVF:
                                                                  2,108 mL
                                                                    934 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                  1,070 mL
   Urine:
                                                                  2,255 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     33 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.57/26/77.[**Numeric Identifier 143**]/24/2
   Ve: 15.1 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: No(t) Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Comatose
   Labs / Radiology
   10.5 g/dL
   146 K/uL
   88 mg/dL
   0.7 mg/dL
   24 mEq/L
   2.8 mEq/L
   11 mg/dL
   111 mEq/L
   143 mEq/L
   30.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2145-10-7**]  10:28 AM
                            [**2145-10-7**]  12:11 PM
                            [**2145-10-7**]  12:35 PM
                            [**2145-10-7**]  02:52 PM
                            [**2145-10-7**]  04:23 PM
                            [**2145-10-7**]  06:45 PM
                            [**2145-10-7**]  10:00 PM
                            [**2145-10-7**]  10:07 PM
                            [**2145-10-8**]  02:58 AM
                            [**2145-10-8**]  03:08 AM
   WBC
   8.3
   Hct
   30.6
   Plt
   146
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   28
   27
   26
   25
   26
   25
   Glucose
   98
   114
   102
   88
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Coma, anoxic brain injury s/p arrest.
   RESPIRATORY FAILURE -- persistent.  Protecting airway with ETT.
   Evidence for LLL pneumonia --> antibiotics.
   COMA -- attributed to diffuse brain injury.  Poor prognosis.  Hope to
   reduce benzodiazepines to d/c if tolerated by seizures.  Will plan
   apnea test.
   s/p arrest -- s/p therapeutic hypothermia.  No further cardiac
   disturbance.
   SEIZURES -- likely related to anoxic brain injury.  Continue
   anticonvulsants, monitor level.
   NUTRITIONAL SUPPORT -- TF
   FLUIDS -- euvolemic.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Discussed medical updates with family
   members, including mother and father.
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2145-10-09 04:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
C - [**2145-10-8**] 11:00 PM
   - Overbreathing vent, still alkalotic despite decreased RR on vent.
   Breathing RR 50s, SBP 160s-170s, sedation increased (Fenatanyl added
   back and Versed)
   - Goal ICP <20. Had episodes in am of increased ICP but did not receive
   mannitol overnight. ICP around 3 am mid 20s x 30-40 minutes. Extra 12.5
   g IV Mannitol given.
   - Final read EEG negative for seizures
   - Attempted wean off versed to assess brain fxn but had to increase [**1-23**]
   overbreathing, now on fentanyly versed
   - Had coffee grounds suctioned from stomach. ? OGT irritation. HCT
   checked and was stable, 32. Ordered NPO for now, IV PPI [**Hospital1 7**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2145-10-6**] 08:30 PM
   Metronidazole - [**2145-10-8**] 08:38 AM
   Ceftriaxone - [**2145-10-8**] 10:00 AM
   Infusions:
   Fentanyl - 275 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-10-8**] 06:25 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-8**] 10:00 PM
   Pantoprazole (Protonix) - [**2145-10-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-9**] 04:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.5
C (99.5
   HR: 108 (93 - 123) bpm
   BP: 159/91(114) {131/75(93) - 178/109(130)} mmHg
   RR: 31 (7 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    ICP: 25 (10 - 27) mmHg
   Total In:
                                                                  2,635 mL
                                                                    650 mL
   PO:
   TF:
   IVF:
                                                                  2,035 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    335 mL
   Urine:
                                                                  2,000 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    635 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.49/26/75/20/-1
   Ve: 16.7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Intubated, sedated, young man in bed with cooling
   blanket
   Eyes / Conjunctiva:L surgical pupil dilated, R more dilated than prior,
   4-5mm. Both fixed. No corneal reflexes.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c/e
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   Right foot rhythmically tapping, L intermittently tapping.
   Labs / Radiology
   192 K/uL
   11.5 g/dL
   84 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.5 mEq/L
   11 mg/dL
   116 mEq/L
   146 mEq/L
   32.8 %
   12.4 K/uL
        [image002.jpg]
                            [**2145-10-8**]  03:08 AM
                            [**2145-10-8**]  10:15 AM
                            [**2145-10-8**]  10:27 AM
                            [**2145-10-8**]  03:25 PM
                            [**2145-10-8**]  03:43 PM
                            [**2145-10-8**]  08:01 PM
                            [**2145-10-8**]  09:18 PM
                            [**2145-10-8**]  09:27 PM
                            [**2145-10-9**]  03:02 AM
                            [**2145-10-9**]  03:58 AM
   WBC
   9.2
   12.4
   Hct
   31.6
   32.0
   32.8
   Plt
   162
   192
   Cr
   0.6
   0.7
   0.7
   TCO2
   25
   23
   24
   23
   20
   Glucose
   114
   130
   135
   84
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest in setting of possible
   overdose.
   .
   # Neurologic status/assessment: Will need to assess pt
s neurological
   status as he is no\w approx. 72 hours out from arrest to determine
   prognosis. Per neuro, no cold caloric response, no doll
s eyes although
   later had some UE reflexes and withdrawal to pain this am.  Dilated
   pupil on am exam concerning for herniation although prelim head CT only
   c/w edema. Neurosurg consulted and bolt was placed for intracranial
   monitoring.
   - Arctic Sun Protocol completed, minimal neurologic response prior and
   after cooling.
   - Head CT does note loss of [**Doctor Last Name **]-white matter differentiation
   - F/u final read MRI with diffusion waited images, in order to evaluate
   the presence and extent of anoxic brain injury.
   - Due to pt
s propensity to rigor and become febrile, monitor closely
   and apply cooling blanket to prevent malignant hyperthermia, and treat
   with round the clock APAP.
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures. Will call neurosurg if ICP>30
   - Continue hyperventilation with goal CO2 28-30 and mannitol
   Seizures: Neurology opinions different regarding whether persistent
   foot movements represent seizures. Will follow up EEG report
   - Continue Keppra and Dilantin (following Dilantin levels). Dilantin
   level therapeutic
   - Increase Keppra dosing since pt still having rhythmic foot movement,
   ? seizure
   -
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - Follow up EEG report.
   - VAP bundle
   # Fever: Likley central vs. from infection. Has new LLL PNA and GNR in
   sputum, speciated to Klebsiella sensitive to ceftriaxone.
   - Ceftriaxone only for treatment of Klebsiella PNA, D/C Flagyl.
   - F/u cultures and sensitivities.
   # Heroin Abuse - will need to monitor for neurologic recovery, if
   improvement pt will require SW consult and addition consult
   - Dosing sedation medications with addiction history in mind, with
   potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psosriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, receiving banana bag. Will start MVI,
   Folate, Thiamine. Following Na, serum osm q4 hours, dosing mannitol
   accordingly
   .
   # Access:  P-IVs X 4
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code
 DNR/DNI
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis, goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:32 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2145-10-10 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Evaluated by Neurosurgery that recommended continued use of Mannitol,
   elevation of bed, increasing the minute ventilation to decreased PCO2
   down to 30, and to consider using lasix between Mannitol doses and/or
   adding Propofol if needed
   ICPs between mid-teens, and briefly hit 35 at 3am.    Mannitol given
   multiple times overnight, increased RR on vent.
   Started on Clindamycin to cover MSSA in Sputum
 EKG - At [**2145-10-9**] 12:30 PM
   LENI's @ bedside = negative for DVT
   Subcutaneous air noted both on exam and on final CXR read from [**10-9**]
   Pink urine noted in foley, Coags sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2145-10-8**] 08:38 AM
   Ceftriaxone - [**2145-10-9**] 10:55 AM
   Clindamycin - [**2145-10-10**] 01:00 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-10-9**] 10:00 PM
   Pantoprazole (Protonix) - [**2145-10-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-10**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 101 (94 - 114) bpm
   BP: 147/72(94) {134/72(94) - 175/97(124)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    ICP: 21 (13 - 33) mmHg
   Total In:
                                                                  2,827 mL
                                                                    793 mL
   PO:
   TF:
   IVF:
                                                                  2,587 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    750 mL
   Urine:
                                                                  1,860 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    967 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 522 (522 - 671) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Elevated ICP
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   SpO2: 91%
   ABG: 7.43/32/71/22/-1
   Ve: 13.3 L/min
   PaO2 / FiO2: 142
   Physical Examination [unchanged from yesterday]
   General Appearance: Intubated, sedated, young man in bed with cooling
   blanket
   Eyes / Conjunctiva:L surgical pupil dilated, 3mm No appreciable
   reactivity. Both fixed. No corneal reflexes.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), Abdominal Contractions
   with breaths. (Breath Sounds: Clear )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c/e
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   Right foot rhythmically tapping, L intermittently tapping.
   Labs / Radiology
   211 K/uL
   10.7 g/dL
   126 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   10 mg/dL
   114 mEq/L
   145 mEq/L
   31.0 %
   13.7 K/uL
        [image002.jpg]
                            [**2145-10-9**]  07:54 AM
                            [**2145-10-9**]  09:44 AM
                            [**2145-10-9**]  10:49 AM
                            [**2145-10-9**]  03:14 PM
                            [**2145-10-9**]  06:54 PM
                            [**2145-10-9**]  08:19 PM
                            [**2145-10-9**]  11:23 PM
                            [**2145-10-10**]  02:39 AM
                            [**2145-10-10**]  02:48 AM
                            [**2145-10-10**]  04:21 AM
   WBC
   13.7
   Hct
   31.0
   Plt
   211
   Cr
   0.7
   0.7
   0.7
   TCO2
   23
   21
   22
   21
   25
   24
   22
   Glucose
   133
   96
   101
   126
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest in setting of possible
   overdose.
   .
   # Neurologic status/assessment: Now approx. > 72 hours out from cardiac
   arrest to determine prognosis. Per neuro, no cold caloric response, no
   doll
s. Bolt in place with ICP goals < 20. MR confirms global anoxic
   brain infarction.
   - Family meeting follow-up today to  assess goals of care
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures. Will call neurosurg if ICP>30
   - Continue hyperventilation with goal CO2 28-30 and mannitol
   Seizures: Neurology opinions different regarding whether persistent
   foot movements represent seizures. EEG final read suggests that pts
   rhythmic movements are not secondary to seizures. However, since this
   was previously debatable we wil:
   - Continue Keppra and Dilantin (following Dilantin levels). Dilantin
   level therapeutic
   #Hypoxia:
   - Cont. current vent setting to compensate for hypoxia that developed
   overnight, and wean as tolerated.
   - Bronchoscopy to examine trachea and bronchi to examine for tracheal
   leak or other etiology for subcutaneous air.
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - VAP bundle
   # Fever:  LLL PNA and GNR in sputum, speciated to Klebsiella sensitive
   to ceftriaxone. In addition Sputum culture growing MSSA and
   enterobacter.
   - Ceftriaxone only for treatment of Klebsiella PNA
   - Adding Clinda for MSSA
   # Heroin Abuse - if improvement pt will require SW consult and addition
   consult
   - Dosing sedation medications with addiction history in mind, with
   potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psosriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, MVI, Folate, Thiamine. Following Na, serum
   osm q4 hours, dosing mannitol accordingly
   .
   # Access:  P-IVs X 4
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code
 DNR/DNI
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis, goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-3**] 10:31 PM
   18 Gauge - [**2145-10-3**] 11:29 PM
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   1.       Readdressing code status with family today.
   2.       Adding the following imaging studies: CT head without
   contrast; CTA chest with contrast.
   3.       Bronchoscopy to assess for plugging and tracheal trauma
   other etiologies of his subcutaneous air.
   4.       ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 2833**], MD
   on:[**2145-10-10**] 14:42 ------
   5.
   6.
   7.       Electronically signed by [**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 2833**], MD  [**2145-10-10**] 14:42
   8.
   9.

2145-10-11 05:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
C - [**2145-10-11**] 04:00 AM
   - On going family discussion re: code status and long term management
   - Neurology: requested slow wean off versed and reapplication if upper
   ext. sz activity.
   - Fi02 has not been weaned, still on 80%
   - Weaned versed, started propofol.
   - CTA of chest shows small mediastinal pneumothorax with subcutaneous
   air, and a collapsed lower LLL atelectasis and LRL consolidation.
   - Had bronchoscopy: copious purulent secretions in left lower >
   lingula, no obvious tracheal/bronchial injury.  BAL preformed in left
   lower lobe.
   -This am, ICP continued to be elevated; started versed gtt; neuro and
   neurosurg had no new recs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2145-10-8**] 08:38 AM
   Ceftriaxone - [**2145-10-10**] 09:44 AM
   Clindamycin - [**2145-10-11**] 12:30 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Propofol - 72.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-10-10**] 10:26 PM
   Furosemide (Lasix) - [**2145-10-10**] 10:41 PM
   Pantoprazole (Protonix) - [**2145-10-11**] 12:30 AM
   Midazolam (Versed) - [**2145-10-11**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-11**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 80 (74 - 105) bpm
   BP: 139/75(93) {110/63(78) - 170/84(111)} mmHg
   RR: 25 (20 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    ICP: 31 (13 - 43) mmHg
   Total In:
                                                                  3,218 mL
                                                                  1,050 mL
   PO:
   TF:
   IVF:
                                                                  2,948 mL
                                                                    840 mL
   Blood products:
   Total out:
                                                                  2,802 mL
                                                                  1,290 mL
   Urine:
                                                                  2,802 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 521 (521 - 521) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 52 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/38/115/24/2
   Ve: 13.6 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Intubated, sedated, young man in bed in upright
   sitting position
   Eyes / Conjunctiva: L surgical pupil dilated, 3mm No appreciable
   reactivity. Both fixed and dilated. No corneal reflexes.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), no longer hiccupping or
   working against ventilator.  Breaths now solely synchronous with
   ventilator. (Breath Sounds: rhoncorous in the upper right lung fields.
   )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c his plaques are erythematous.
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   No sz-like activity.  The pt
s body is flaccid with no movements
   whatsoever.
   Labs / Radiology
   269 K/uL
   10.5 g/dL
   96 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   10 mg/dL
   111 mEq/L
   143 mEq/L
   30.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2145-10-9**]  11:23 PM
                            [**2145-10-10**]  02:39 AM
                            [**2145-10-10**]  02:48 AM
                            [**2145-10-10**]  04:21 AM
                            [**2145-10-10**]  05:25 AM
                            [**2145-10-10**]  05:40 AM
                            [**2145-10-10**]  04:50 PM
                            [**2145-10-10**]  09:47 PM
                            [**2145-10-11**]  03:09 AM
                            [**2145-10-11**]  03:36 AM
   WBC
   13.7
   14.0
   Hct
   31.0
   30.6
   Plt
   211
   269
   Cr
   0.7
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   24
   22
   24
   27
   Glucose
   101
   126
   98
   98
   84
   96
   Other labs: PT / PTT / INR:13.3/25.7/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest in setting of possible
   overdose.
   .
   # Neurologic status/assessment: Now approx. > 72 hours out from cardiac
   arrest to determine prognosis. Per neuro, no cold caloric response, no
   doll
s. Per MICU daily exams, pt has no corneal reflexes and now has
   pupils that are utterly fixed and dilated.
   - MR confirms global anoxic brain infarction, and rpt CT scan also
   consistent with anoxic injury and poor prognosis.
   - Family meeting follow-up today
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures. Will call neurosurg if ICP>30
   - Continue hyperventilation with goal CO2 28-30
   - Goal today is to wean all sedation as tolerated, and attempt apnea
   test now that pt. is no longer breathing over the vent, but is rather
   breathing in sync with it.
   Seizures: resolved
   - Continue Keppra and Dilantin (following Dilantin levels). Dilantin
   level therapeutic
   #Hypoxia:
   - Cont. current vent setting to compensate for hypoxia that developed
   overnight, and wean as tolerated.
   - Bronchoscopy demonstrated copious purulent sputum, and no obvious
   tracheal or bronchial injury.
   - CTA demonstrated small anterior right sided pneumothorax
 follow up
   CXR to evaluate status of PTX.
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - VAP bundle
   # Fever:  LLL PNA and GNR in sputum, speciated to Klebsiella sensitive
   to ceftriaxone. In addition Sputum culture growing MSSA and
   enterobacter.
   - Ceftriaxone and Clinda for treatment of Klebsiella PNA and possible
   MSSA.
   # Heroin Abuse: dosing sedation medications with addiction history in
   mind, with potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psoriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, MVI, Folate, Thiamine. Following Na, serum
   osm q4 hours, dosing mannitol accordingly
   .
   # Access:  P-IVs X 4, and intracranial bolt to measure ICP.
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code
 Though the father is concerned with the decision to make him
   DNR/DNI, it has been communicated to the family that the medical team
   would not resuscitate him as cardiopulmonary resuscitation at this
   point would cause more harm than benefit.
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis.
   ICU Care:
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM

2145-10-11 09:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2145-10-10**] 12:45 PM
 BRONCHOSCOPY - At [**2145-10-10**] 01:00 PM
   sample sent for cx and gm stain
 FEVER - 101.1
C - [**2145-10-11**] 04:00 AM
   Remains intubated, mechanically ventilated.  Increased FiO2
   requirement.
   Episode of increased ICP early this AM (up to 47 cmH2O) --> now back to
   low 20's, perhaps responded to increased Mannitol.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-10-10**] 09:44 AM
   Clindamycin - [**2145-10-11**] 12:30 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2145-10-10**] 10:41 PM
   Pantoprazole (Protonix) - [**2145-10-11**] 12:30 AM
   Midazolam (Versed) - [**2145-10-11**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-10-11**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 82 (74 - 93) bpm
   BP: 127/69(85) {110/63(78) - 158/82(106)} mmHg
   RR: 28 (23 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   ICP: 30 (22 - 43) mmHg
   Total In:
                                                                  3,218 mL
                                                                  1,501 mL
   PO:
   TF:
   IVF:
                                                                  2,948 mL
                                                                  1,231 mL
   Blood products:
   Total out:
                                                                  2,802 mL
                                                                  1,730 mL
   Urine:
                                                                  2,802 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 521 (521 - 521) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 52 cmH2O/mL
   SpO2: 90%
   ABG: 7.47/33/87.[**Numeric Identifier 181**]/24/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Left surgical pupil
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Diffuse psoriasis
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   10.5 g/dL
   269 K/uL
   96 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   10 mg/dL
   111 mEq/L
   143 mEq/L
   30.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2145-10-10**]  02:39 AM
                            [**2145-10-10**]  02:48 AM
                            [**2145-10-10**]  04:21 AM
                            [**2145-10-10**]  05:25 AM
                            [**2145-10-10**]  05:40 AM
                            [**2145-10-10**]  04:50 PM
                            [**2145-10-10**]  09:47 PM
                            [**2145-10-11**]  03:09 AM
                            [**2145-10-11**]  03:36 AM
                            [**2145-10-11**]  05:28 AM
   WBC
   13.7
   14.0
   Hct
   31.0
   30.6
   Plt
   211
   269
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   24
   22
   24
   27
   25
   Glucose
   126
   98
   98
   84
   96
   Other labs: PT / PTT / INR:13.3/25.7/1.1, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Anoxic brain injury s/p cardiopulmonary arrest.
   RESPIRATORY FAILURE -- persistent;  multifactorial; s/p arrest, LLL
   pneumonia, evolving ARDS.  Need to assess apnea test once sedatives
   d/c
   COMA -- s/p arrest.  Evidence for diffuse brain injury by MRI and head
   CT.  Monitor ICP, maintain <20, d/c sedation.  Radiographs demonstrate
   extensive brain injury.  Exam consistent with only minimal brainstem
   function (BP and respiratory center).  Poor prognosis.
   SEIZURE -- currently clinically controled.  Continue dilantin and
   cepra.
   HYPOXEMIA -- multifactorial, atalectasis, pneumonia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Extensive discussion with mother, father and
   sister.  Updated medical condition and answered all questions.  All
   recognize gravity of overall condition and poor neurological prognosis.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   Clarification of code status.  Due to clinical and neurological
   evidence for extensive neurological injury, in the event of cardiac
   arrest, CPR would be considered medically futile and thus not medically
   indicated.  Will continue current level of care, but in event of
   cardiac arrest or cardiac dysrhythmia will not perform CPR,
   cardioversion or defibrillation.  Discussed with family who understand
   and agree.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2145-10-11**] 05:33 PM ------

2145-10-12 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1. Family meeting: cont current course; will discuss again in am
   2.  Episode of desaturation, tachypnea to 40s during a position change.
   FiO2 increased to 100%, Propofol increased to 100mcg with several
   boluses. CXR obtained (evolving LLL infiltrate, otherwise unchanged).
   Sats came up to high 90s on 100%. Decreased FiO2 to 80%. ABG:  became
   more synchronous with increased sedation. Ordered Fentanyl boluses but
   did not receive
   3.  During apnea trial, pt breathed on his own at a rate in the 30s and
   maintained PCO2 of 33.
   4.  Pupils fixed, dilated and maintaining ICPs in the 20s with RTC
   mannitol
   5.  PTX, SC emphysema stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-10-11**] 10:00 AM
   Clindamycin - [**2145-10-12**] 12:40 AM
   Infusions:
   Propofol - 90 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-10-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-12**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 80 (73 - 91) bpm
   BP: 140/77(95) {119/67(81) - 173/91(115)} mmHg
   RR: 30 (22 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    ICP: 31 (18 - 43) mmHg
   Total In:
                                                                  3,481 mL
                                                                    742 mL
   PO:
   TF:
   IVF:
                                                                  3,044 mL
                                                                    692 mL
   Blood products:
   Total out:
                                                                  4,005 mL
                                                                  1,280 mL
   Urine:
                                                                  4,005 mL
                                                                  1,130 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -524 mL
                                                                   -538 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 520) mL
   RR (Set): 30
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/119/22/1
   Ve: 12.7 L/min
   PaO2 / FiO2: 149
   Physical Examination
   General Appearance: Intubated, sedated, young man in bed in upright
   sitting position
   Eyes / Conjunctiva: L surgical pupil dilated, 6 mm No appreciable
   reactivity. Both fixed and dilated. No corneal reflexes.
   Head, Ears, Nose, Throat:  Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), no longer hiccupping or
   working against ventilator.  Breaths now solely synchronous with
   ventilator. (Breath Sounds: rhoncorous in the upper right lung fields.
   )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c his plaques are erythematous.
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   No sz-like activity.  The pt
s body is flaccid with no movements
   whatsoever.
   Labs / Radiology
   394 K/uL
   10.9 g/dL
   94 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   7 mg/dL
   113 mEq/L
   145 mEq/L
   31.6 %
   14.1 K/uL
        [image002.jpg]
                            [**2145-10-10**]  04:50 PM
                            [**2145-10-10**]  09:47 PM
                            [**2145-10-11**]  03:09 AM
                            [**2145-10-11**]  03:36 AM
                            [**2145-10-11**]  05:28 AM
                            [**2145-10-11**]  10:25 AM
                            [**2145-10-11**]  01:41 PM
                            [**2145-10-11**]  02:02 PM
                            [**2145-10-12**]  04:44 AM
                            [**2145-10-12**]  04:45 AM
   WBC
   14.0
   13.4
   14.1
   Hct
   30.6
   30.6
   31.6
   Plt
   [**Telephone/Fax (3) 2888**]
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   TCO2
   27
   25
   25
   24
   25
   Glucose
   98
   84
   96
   110
   94
   Other labs: PT / PTT / INR:12.4/25.7/1.0, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P: Pt is a 30y/o M s/p cardiac arrest in setting of possible
   overdose.
   .
   # Neurologic status/assessment: Now approx. > 72 hours out from cardiac
   arrest to determine prognosis. Per neuro, no cold caloric response, no
   doll
s. Per MICU daily exams, pt has no corneal reflexes and now has
   pupils that are utterly fixed and dilated.
   - MR confirms global anoxic brain infarction, and rpt CT scan also
   consistent with anoxic injury and poor prognosis.
   - Continued discussions with Family.
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures. Will call neurosurg if ICP>30
   - Continue hyperventilation with goal CO2 28-30
   Seizures: resolved
   - Continue Keppra
   #Hypoxia:
   - Cont. current vent setting to compensate for hypoxia that developed
   overnight, and wean as tolerated.
   - Bronchoscopy demonstrated copious purulent sputum, and no obvious
   tracheal or bronchial injury.
   - CTA demonstrated small anterior right sided pneumothorax
 will
   continue to follow.
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - VAP bundle
   # Fever:  LLL PNA and GNR in sputum, speciated to Klebsiella sensitive
   to ceftriaxone. In addition Sputum culture growing MSSA and
   enterobacter.
   - Ceftriaxone and Clinda for treatment of Klebsiella PNA and possible
   MSSA started on [**10-5**].
   # Heroin Abuse: dosing sedation medications with addiction history in
   mind, with potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psoriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, MVI, Folate, Thiamine. Following Na, serum
   osm q4 hours, dosing mannitol accordingly
   .
   # Access:  P-IVs X 4, and intracranial bolt to measure ICP.
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code
 DNR/DNI
   - Though the father is concerned with the decision to make him DNR/DNI,
   it has been communicated to the family that the medical team would not
   resuscitate him as cardiopulmonary resuscitation at this point would
   cause more harm than benefit.
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis.
   ICU Care
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM

2145-10-12 12:56:00 Physician Attending Progress Note
Chief Complaint: Resp failure, coma.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Required higher FiO2 transiently, but remains on high FiO2.
   Remains in coma.
   Remains on continuous mannitol drip.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2145-10-12**] 08:00 AM
   Ceftriaxone - [**2145-10-12**] 10:00 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-10-12**] 08:00 AM
   Pantoprazole (Protonix) - [**2145-10-12**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-10-12**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 75 (75 - 91) bpm
   BP: 148/81(102) {125/72(87) - 173/91(115)} mmHg
   RR: 30 (26 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   ICP: 18 (18 - 43) mmHg
   Total In:
                                                                  3,481 mL
                                                                  1,762 mL
   PO:
   TF:
   IVF:
                                                                  3,044 mL
                                                                  1,581 mL
   Blood products:
   Total out:
                                                                  4,005 mL
                                                                  1,920 mL
   Urine:
                                                                  4,005 mL
                                                                  1,770 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -524 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 520) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 12 cmH2O
   Compliance: 105 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/119/22/1
   Ve: 12.8 L/min
   PaO2 / FiO2: 149
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, surgical left pupil
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Flaccid.  No
   bulbar reflexes.
   Labs / Radiology
   10.9 g/dL
   394 K/uL
   94 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   7 mg/dL
   113 mEq/L
   145 mEq/L
   31.6 %
   14.1 K/uL
        [image002.jpg]
                            [**2145-10-10**]  04:50 PM
                            [**2145-10-10**]  09:47 PM
                            [**2145-10-11**]  03:09 AM
                            [**2145-10-11**]  03:36 AM
                            [**2145-10-11**]  05:28 AM
                            [**2145-10-11**]  10:25 AM
                            [**2145-10-11**]  01:41 PM
                            [**2145-10-11**]  02:02 PM
                            [**2145-10-12**]  04:44 AM
                            [**2145-10-12**]  04:45 AM
   WBC
   14.0
   13.4
   14.1
   Hct
   30.6
   30.6
   31.6
   Plt
   [**Telephone/Fax (3) 2888**]
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   TCO2
   27
   25
   25
   24
   25
   Glucose
   98
   84
   96
   110
   94
   Other labs: PT / PTT / INR:12.4/25.7/1.0, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   COMA -- s/p arrest.  Evidence for extensive CNS injury.
   RESPIRATORY FAILURE -- persistent.  Multifactorial, pnuemonia and
   central hyperventilation.
   PNEUMOTHORAX, RIGHT -- barotrauma.  Monitor.
   SEIZURES -- continue anti-convulsants.
   S/P ARREST -- s/p cooling.  Poor prognosis.
   NUTRITIONAL SUPPORT -- TF.
   PNEUMONIA -- LLL, aspiration.  Continue antimicrobials.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments: Updated condition with
   mother, father and sister.
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   Meeting with patient
s mother (father and sister not present).  Still
   no concensus as to direction of future care.  Plan to continue current
   level of care.  Remains DNR (medical futility).
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2145-10-12**] 06:25 PM ------

2145-10-13 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-10-12**] 10:00 AM
   Clindamycin - [**2145-10-13**] 12:30 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-10-12**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-10-12**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-13**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 76 (72 - 93) bpm
   BP: 146/81(101) {119/66(81) - 151/82(102)} mmHg
   RR: 29 (28 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    ICP: 29 (8 - 37) mmHg
   Total In:
                                                                  2,981 mL
                                                                    764 mL
   PO:
   TF:
   IVF:
                                                                  2,740 mL
                                                                    709 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    950 mL
   Urine:
                                                                  2,810 mL
                                                                    500 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                     21 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 52.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/33/64/20/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance: Intubated, sedated, young man in bed in upright
   sitting position
   Eyes / Conjunctiva: L surgical pupil dilated, 6 mm No appreciable
   reactivity. Both fixed and dilated. No corneal reflexes.
   Head, Ears, Nose, Throat:  Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), no longer hiccupping or
   working against ventilator.  Breaths now solely synchronous with
   ventilator. (Breath Sounds: rhoncorous in the upper right lung fields.
   )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c his plaques are erythematous.
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   No sz-like activity.  The pt
s body is flaccid with no movements
   whatsoever.
   Labs / Radiology
   462 K/uL
   10.9 g/dL
   102 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   7 mg/dL
   113 mEq/L
   142 mEq/L
   31.4 %
   18.8 K/uL
        [image002.jpg]
                            [**2145-10-11**]  01:41 PM
                            [**2145-10-11**]  02:02 PM
                            [**2145-10-12**]  04:44 AM
                            [**2145-10-12**]  04:45 AM
                            [**2145-10-12**]  01:21 PM
                            [**2145-10-12**]  01:32 PM
                            [**2145-10-12**]  06:18 PM
                            [**2145-10-12**]  06:30 PM
                            [**2145-10-13**]  04:25 AM
                            [**2145-10-13**]  04:29 AM
   WBC
   14.1
   18.8
   Hct
   31.6
   31.4
   Plt
   394
   462
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   25
   24
   25
   24
   21
   25
   Glucose
   94
   124
   111
   102
   Other labs: PT / PTT / INR:12.4/25.7/1.0, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Pt is a 30y/o M s/p cardiac arrest in setting of possible overdose.
   .
   # Neurologic status/assessment: Now approx. > 72 hours out from cardiac
   arrest to determine prognosis. Per neuro, no cold caloric response, no
   doll
s. Per MICU daily exams, pt has no corneal reflexes and now has
   pupils that are utterly fixed and dilated.
   - MR confirms global anoxic brain infarction, and rpt CT scan also
   consistent with anoxic injury and poor prognosis.
   - Continued discussions with Family.
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures.   ICPs have been in low 50
s this am, but the patient is
   already on high dose sedation and max dose mannitol administered around
   the clock.
   - Continue hyperventilation with goal CO2 28-30, with the intention of
   preventing possible reactive cerebral vasodilation if we were to stop
   hyperventilating pt.
   - Rpt apnea test.
   - Potential to involve palliative care if family continues to have a
   difficult experience making end of life decisions.
   Seizures: resolved
   - Continue Keppra
   #Hypoxia:
   - Cont. current vent settings and wean as tolerated.
   - Bronchoscopy demonstrated copious purulent sputum, and no obvious
   tracheal or bronchial injury.
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - VAP bundle
   # Fever:  LLL PNA and GNR in sputum, speciated to Klebsiella sensitive
   to ceftriaxone. In addition Sputum culture growing MSSA and
   enterobacter.
   - Ceftriaxone and Clinda for treatment of Klebsiella PNA and possible
   MSSA started on [**10-5**].
   # Heroin Abuse: dosing sedation medications with addiction history in
   mind, with potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psoriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, MVI, Folate, Thiamine. Following Na, serum
   osm [**Hospital1 7**], dosing mannitol accordingly
   .
   # Access:  P-IVs X 3, and intracranial bolt to measure ICP.
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code
 DNR/DNI
   - Though the father is concerned with the decision to make him DNR/DNI,
   it has been communicated to the family that the medical team would not
   resuscitate him as cardiopulmonary resuscitation at this point would
   cause more harm than benefit.
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis.
   ICU Care
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM

2145-10-13 12:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, coma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains in coma.
   No new neurological findings.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, Coma
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2145-10-13**] 08:00 AM
   Ceftriaxone - [**2145-10-13**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-10-12**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-10-12**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-10-13**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 69 (69 - 93) bpm
   BP: 137/79(99) {119/66(81) - 151/82(102)} mmHg
   RR: 30 (28 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   ICP: 15 (4 - 37) mmHg
   Total In:
                                                                  2,981 mL
                                                                  1,539 mL
   PO:
   TF:
   IVF:
                                                                  2,740 mL
                                                                  1,399 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                  1,500 mL
   Urine:
                                                                  2,810 mL
                                                                  1,050 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                     21 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/33/64/20/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: left, No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: diffuse psoriasis, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Flaccid.
   Labs / Radiology
   10.9 g/dL
   462 K/uL
   102 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   7 mg/dL
   113 mEq/L
   142 mEq/L
   31.4 %
   18.8 K/uL
        [image002.jpg]
                            [**2145-10-11**]  01:41 PM
                            [**2145-10-11**]  02:02 PM
                            [**2145-10-12**]  04:44 AM
                            [**2145-10-12**]  04:45 AM
                            [**2145-10-12**]  01:21 PM
                            [**2145-10-12**]  01:32 PM
                            [**2145-10-12**]  06:18 PM
                            [**2145-10-12**]  06:30 PM
                            [**2145-10-13**]  04:25 AM
                            [**2145-10-13**]  04:29 AM
   WBC
   14.1
   18.8
   Hct
   31.6
   31.4
   Plt
   394
   462
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   25
   24
   25
   24
   21
   25
   Glucose
   94
   124
   111
   102
   Other labs: PT / PTT / INR:12.4/25.7/1.0, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  remains intubated for airway
   protection.  Plan repeat apnea test.
   PNEUMONIA -- complete course of antimicrobials.
   COMA -- anoxic brain injury.  Extensive brain injury by head CT and
   MRI.  Minimal brainstem function.  Continue mannitol infusion.
   SEIZURE -- no clinical evidence for recurrence.
   FLUIDS -- monitor serum osmolality.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Updated mother.
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum:
   Extensive comprehensive discussion with immediate family (including
   father, mother and sister).  Updated medical condition and answered all
   questions.  In discussing direction of medical care, the unanimous
   opinion was that the patient would not want to continue medical care if
   there was no likelihood for meaningful neurological recovery,
   especially if high likelihood of persistent vegetative state.  Patient
   has expressed this clearly to family members in the past, especially to
   sister.  [**Name (NI) **] in agreement that current level of care should change and
   now be focused on comfort.  Will assure patient comfort, and plan to
   d/c all other interventions (including ETT) once family members have
   opportunity to visit with patient.  Plan to begin in AM.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2145-10-13**] 16:10 ------

2145-10-14 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Known lastname 2750**]:
   - Plan to transfer to CMO in the AM when family arrives in the morning
   ~ 6am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-10-13**] 10:00 AM
   Clindamycin - [**2145-10-14**] 12:45 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-10-13**] 10:40 PM
   Pantoprazole (Protonix) - [**2145-10-14**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-14**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 69 (68 - 78) bpm
   BP: 133/76(95) {125/70(88) - 147/83(104)} mmHg
   RR: 30 (25 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    ICP: 14 (4 - 61) mmHg
   Total In:
                                                                  2,748 mL
                                                                    780 mL
   PO:
   TF:
   IVF:
                                                                  2,528 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    700 mL
   Urine:
                                                                  2,040 mL
                                                                    700 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    258 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.40/36/125/21/-1
   Ve: 12.9 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Intubated, sedated, young man in bed in upright
   sitting position
   Eyes / Conjunctiva: L surgical pupil dilated, 6 mm No appreciable
   reactivity. Both fixed and dilated. No corneal reflexes.
   Head, Ears, Nose, Throat:  Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no appreciable M/R/G.
   Respiratory / Chest: (Expansion: Symmetric), no longer hiccupping or
   working against ventilator.  Breaths now solely synchronous with
   ventilator. (Breath Sounds: rhoncorous in the upper right lung fields.
   )
   Abdominal: Bowel sounds present. Soft. NT/ND
   Extremities: No c/c his plaques are erythematous.
   Skin:  Psoriatic plaques
   Neurologic: Sedated, intubated. No response to even noxious stimuli.
   No sz-like activity.  The pt
s body is flaccid with no movements
   whatsoever.
   Labs / Radiology
   462 K/uL
   10.9 g/dL
   99 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.3 mEq/L
   7 mg/dL
   112 mEq/L
   142 mEq/L
   31.4 %
   18.8 K/uL
        [image002.jpg]
                            [**2145-10-12**]  04:45 AM
                            [**2145-10-12**]  01:21 PM
                            [**2145-10-12**]  01:32 PM
                            [**2145-10-12**]  06:18 PM
                            [**2145-10-12**]  06:30 PM
                            [**2145-10-13**]  04:25 AM
                            [**2145-10-13**]  04:29 AM
                            [**2145-10-13**]  02:53 PM
                            [**2145-10-13**]  03:16 PM
                            [**2145-10-13**]  05:01 PM
   WBC
   18.8
   Hct
   31.4
   Plt
   462
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   25
   24
   21
   25
   24
   23
   Glucose
   124
   111
   102
   99
   Other labs: PT / PTT / INR:12.4/25.7/1.0, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Pt is a 30y/o M s/p cardiac arrest in setting of possible overdose.
   .
   # Neurologic status/assessment: Now approx. > 72 hours out from cardiac
   arrest to determine prognosis. Per neuro, no cold caloric response, no
   doll
s. Per MICU daily exams, pt has no corneal reflexes and now has
   pupils that are utterly fixed and dilated.
   - MR confirms global anoxic brain infarction, and rpt CT scan also
   consistent with anoxic injury and poor prognosis.
   - Continued discussions with Family.
   - Continue to monitor for signs of increasing ICP and intracranial
   pressures.   ICPs have been in low 50
s this am, but the patient is
   already on high dose sedation and max dose mannitol administered around
   the clock.
   - Continue hyperventilation with goal CO2 28-30, with the intention of
   preventing possible reactive cerebral vasodilation if we were to stop
   hyperventilating pt.
   - Rpt apnea test.
   - Potential to involve palliative care if family continues to have a
   difficult experience making end of life decisions.
   Seizures: resolved
   - Continue Keppra
   #Hypoxia:
   - Cont. current vent settings and wean as tolerated.
   - Bronchoscopy demonstrated copious purulent sputum, and no obvious
   tracheal or bronchial injury.
   # Cardiopulmonary Arrest
   - Continue invasive ventilation with AC support and will wean based on
   neurologic status as above.
   - VAP bundle
   # Fever:  LLL PNA and GNR in sputum, speciated to Klebsiella sensitive
   to ceftriaxone. In addition Sputum culture growing MSSA and
   enterobacter.
   - Ceftriaxone and Clinda for treatment of Klebsiella PNA and possible
   MSSA started on [**10-5**].
   # Heroin Abuse: dosing sedation medications with addiction history in
   mind, with potential need treat withdrawal symptoms.
   .
   # Hemochromatosis - No current interventions. Questionable History
   # Psoriasis - severe psoriasis over elbows, knees and legs. obtain med
   list from family
   - No clinical indications for treatment currently
   .
   # FEN - Repleting lytes prn, MVI, Folate, Thiamine. Following Na, serum
   osm [**Hospital1 7**], dosing mannitol accordingly
   .
   # Access:  P-IVs X 3, and intracranial bolt to measure ICP.
   .
   # PPX: bowel regimen, hep SC, H2 blocker
   .
   # Code
 DNR/DNI
   - Though the father is concerned with the decision to make him DNR/DNI,
   it has been communicated to the family that the medical team would not
   resuscitate him as cardiopulmonary resuscitation at this point would
   cause more harm than benefit.
   .
   # Dispo
 ICU
   .
   # Communication: With family, mother [**Name (NI) **], father. [**Name (NI) 133**] continue
   discussions of prognosis.
   ICU Care
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM

2145-10-14 12:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains in coma.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-10-13**] 10:00 AM
   Clindamycin - [**2145-10-14**] 12:45 AM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-10-14**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-10-14**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-10-14**] 12:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 68 (68 - 76) bpm
   BP: 109/62(77) {107/61(75) - 147/83(104)} mmHg
   RR: 30 (25 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   ICP: -1 (-1 - 61) mmHg
   Total In:
                                                                  2,748 mL
                                                                  1,499 mL
   PO:
   TF:
   IVF:
                                                                  2,528 mL
                                                                  1,374 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                  1,820 mL
   Urine:
                                                                  2,040 mL
                                                                  1,820 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    258 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.40/36/125/21/-1
   Ve: 12.9 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, left pupil surgical
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, ICP bolt in place
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: psoriatic rash , diffuse, No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Unresponsive, No(t) Oriented (to): , Movement: No spontaneous movement,
   No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Comatose, flaccid, no
   spontaneous movement
   Labs / Radiology
   10.9 g/dL
   462 K/uL
   99 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.3 mEq/L
   7 mg/dL
   112 mEq/L
   142 mEq/L
   31.4 %
   18.8 K/uL
        [image002.jpg]
                            [**2145-10-12**]  04:45 AM
                            [**2145-10-12**]  01:21 PM
                            [**2145-10-12**]  01:32 PM
                            [**2145-10-12**]  06:18 PM
                            [**2145-10-12**]  06:30 PM
                            [**2145-10-13**]  04:25 AM
                            [**2145-10-13**]  04:29 AM
                            [**2145-10-13**]  02:53 PM
                            [**2145-10-13**]  03:16 PM
                            [**2145-10-13**]  05:01 PM
   WBC
   18.8
   Hct
   31.4
   Plt
   462
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   25
   24
   21
   25
   24
   23
   Glucose
   124
   111
   102
   99
   Other labs: PT / PTT / INR:12.4/25.7/1.0, CK / CKMB /
   Troponin-T:454/7/<0.01, ALT / AST:56/72, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:55/39, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:316 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   COMA -- anoxic brain injury, extensive.  Poor prognosis.  As per
   discussion with family, goals of care to focus on comfort.   Will
   provide adequate sedation/pain control, and plan extubation.  Family
   present.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-4**] 01:00 AM
   ICP Catheter - [**2145-10-8**] 12:00 AM
   20 Gauge - [**2145-10-10**] 08:07 AM
   18 Gauge - [**2145-10-10**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   [**Hospital1 19**] referred case to Medical Examiner.  Medical Examiner
s office
   will review case in AM, including g review body and review records.
   Determination will be made as to whether full autopsy will be
   recommended at that time.  Body will be held until this initial review.
   Attempted to contact family members to inform them of the Medical
   Examiner
s evaluation.  Called mother [**First Name5 (NamePattern1) 115**] [**Name (NI) 2750**] [**Telephone/Fax (1) 2944**])
   with no answer and no voice mail available.  Called father [**First Name5 (NamePattern1) **] [**Name (NI) 2750**]
   [**Telephone/Fax (1) 2751**]) with no answer but with message left on voice mail to
   contact [**Hospital1 19**] MICU ([**Telephone/Fax (1) 2945**]).
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2145-10-14**] 19:06 ------